US04317920
8.62 g. of 4-phenoxy-phenyl-crotyl ether (prepared according to DOS 2,304,962) in 30 ml. of diphenyl ether are refluxed for one hour at 260° C. The reaction mixture is cooled to room temperature, diluted with 30 ml. of petroleum ether and shaken with two 25-ml. portions of Claisen-alkali. The alkaline phase is acidified with a concentrated aqueous hydrochloric acid solution and shaken with three 30-ml. portions of ether. The combined ethereal phases are dried over sodium sulphate and evaporated to give 2-(1-methyl-allyl)-4-phenoxy-phenol.

reactant | 4-phenoxy-phenyl-crotyl ether | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C=CC)OC(C=CC)C1=CC=C(C=C1)OC1=CC=CC=C1 | C32H30O3
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | hydrochloric acid | Cl | ClH
reactant | ether | CCOCC | C4H10O
product | 2-(1-methyl-allyl)-4-phenoxy-phenol | CC(C=C)C1=C(C=CC(=C1)OC1=CC=CC=C1)O | C16H16O2
